US07776897B2
Sodium hydride (55% oily, 13 mg) was suspended in DMF (3 ml) and then N-(4-chlorophenyl)-1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxamide was added thereto under ice cooling, followed by stirring at room temperature for 30 minutes. Methyl iodide (17 μl) was added thereto under ice cooling, followed by stirring at room temperature for 3 hours. The reaction solution was diluted with ethyl acetate (30 ml) and washed with a saturated sodium bicarbonate solution (10 ml×2). The organic layer was dried over anhydrous sodium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting residue was purified by column chromatography (methanol:chloroform=2:98) to obtain 83 mg of N-(4-chlorophenyl)-1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-N-methylcyclobutanecarboxamide (white solid).

reactant | Sodium hydride | 13 mg | [H-].[Na+]
reactant | N-(4-chlorophenyl)-1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxamide | ClC1=CC=C(C=C1)NC(=O)C1(CCC1)C1=NN=C(N1C)C1=C(C=CC=C1)Cl | C20H18Cl2N4O
reactant | Methyl iodide | 17 μl | CI | CH3I
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-chlorophenyl)-1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-N-methylcyclobutanecarboxamide | 83 mg | ClC1=CC=C(C=C1)N(C(=O)C1(CCC1)C1=NN=C(N1C)C1=C(C=CC=C1)Cl)C | C21H20Cl2N4O
